### ISSUE TITLE
goal state and `<;>` combinator

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1119]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
example (as bs cs : List α) : (as ++ bs) ++ cs = as ++ (bs ++ cs) := by
induction as <;> skip <;> (try rename_i h; simp[h]) <;> rfl
```

**Actual behavior:** 

at the beginning and at the end of the first `<;>` i get:

```
α : Type ?u.7
as bs cs : List α
⊢ as ++ bs ++ cs = as ++ (bs ++ cs)
```

at the end of `skip` I get:

```
case cons
α : Type ?u.7
bs cs : List α
head✝ : α
tail✝ : List α
 : tail✝ ++ bs ++ cs = tail✝ ++ (bs ++ cs)
⊢ head✝ :: tail✝ ++ bs ++ cs = head✝ :: tail✝ ++ (bs ++ cs)
```

and at the end of `(try rename_i h; simp[h])` I get 

```Goals accomplished 🎉```

**Reproduces how often:** 100%

### Versions
`nightly-2022-04-24`

**Comment by digama0** [comment]
What's the expected behavior? This issue doesn't show anything other than current behavior.

**Comment by fpfu** [comment]
in the first and second case I expect to see the same state as in the end of `induction as`:

```
case nil
α : Type ?u.7
bs cs : List α
⊢ [] ++ bs ++ cs = [] ++ (bs ++ cs)
case cons
α : Type ?u.7
bs cs : List α
head✝ : α
tail✝ : List α
 : tail✝ ++ bs ++ cs = tail✝ ++ (bs ++ cs)
⊢ head✝ :: tail✝ ++ bs ++ cs = head✝ :: tail✝ ++ (bs ++ cs)
```

in the third case I expect to see the remaining goal (as in the beginning of last `<;>`):
```
case nil
α : Type ?u.7
bs cs : List α
⊢ [] ++ bs ++ cs = [] ++ (bs ++ cs)
```

**Comment by fpfu** [comment]
consider you are in the middle of writing such a proof

at that intermediate state case `nil` is hidden from you:

```lean
example (as bs cs : List α) : (as ++ bs) ++ cs = as ++ (bs ++ cs) := by
induction as <;> skip
```

and at that intermediate state infoview tells that you have succesfully finished:

```lean
example (as bs cs : List α) : (as ++ bs) ++ cs = as ++ (bs ++ cs) := by
induction as <;> skip <;> (try rename_i h; simp[h])
```
